US07348387B2
A solution prepared by dissolving 0.05 parts of methyl methacrylate/acrylamide copolymer suspension (this was prepared as follows: 20 parts by weight of methyl methacrylate, 80 parts by weight of acrylamide, 0.3 parts by weight of potassium persulfate, and 1500 parts by weight of ion-exchanged water were put into a reactor, and kept at 70° C. while purged with nitrogen gas; the reaction was continued until the monomers were completely converted into a polymer, and an aqueous solution of methyl acrylate-acrylamide copolymer was obtained; thus obtained, the aqueous solution was used as a suspension) in 165 parts of ion-exchanged water was fed into a stainless autoclave having a capacity of 5 liters and equipped with a baffle and a Pfaudler stirrer, and stirred at 400 rpm, and then purged with nitrogen gas. Next, a mixture of the following substances was added to it with stirring, and heated up to 70° C. At the time when the inner temperature reached 70° C., the polymerization began. After kept as such for 180 minutes, the polymerization finished. After this, the reaction system was cooled and the polymer was separated, washed and dried in an ordinary manner to a copolymer (A-1) in the form of beads. The yield of polymerization of the copolymer (A-1) was 98%.

reactant | methyl methacrylate acrylamide | C(C(=C)C)(=O)OC.C(C=C)(=O)N
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | methyl acrylate acrylamide | C(C=C)(=O)OC.C(C=C)(=O)N | InChI=1S/C4H6O2.C3H5NO/c1-3-4(5)6-2;1-2-3(4)5/h3H,1H2,2H3;2H,1H2,(H2,4,5)
